US07666861B2
(2R,4R,6R)-2-Hydroxy-2-((R)-2-oxothiazolidin-4-yl)-6-(pent-4-enyl)-tetrahydro-2H-pyran-4-yl Benzoate, Compound 4
Application of the method shown in Example 46, with the modification that (2R,4R,6R)-2-methoxy-2-((R)-3-(4-methoxybenzyl)-2-oxothiazolidin-4-yl)-6-(pent-4-enyl)-tetrahydro-2H-pyran-4-yl benzoate was substituted for (R)-4-((1R,4Z,8Z,13R,15R)-15-methoxy-5-methyl-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadeca-4,8-dien-15-yl)-3-(4-methoxybenzyl)thiazolidin-2-one, afforded the title compound.

reactant | (2R,4R,6R)-2-methoxy-2-((R)-3-(4-methoxybenzyl)-2-oxothiazolidin-4-yl)-6-(pent-4-enyl)-tetrahydro-2H-pyran-4-yl benzoate | C(C1=CC=CC=C1)(=O)O[C@H]1C[C@@](O[C@@H](C1)CCCC=C)([C@H]1N(C(SC1)=O)CC1=CC=C(C=C1)OC)OC | C29H35NO6S
reactant | (R)-4-((1R,4Z,8Z,13R,15R)-15-methoxy-5-methyl-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadeca-4,8-dien-15-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | CO[C@]1(O[C@@H]2CCC\C=C/CC\C(=C/C(O[C@@H](C1)C2)=O)\C)[C@H]2N(C(SC2)=O)CC2=CC=C(C=C2)OC | C28H37NO6S
product | (2R,4R,6R)-2-Hydroxy-2-((R)-2-oxothiazolidin-4-yl)-6-(pent-4-enyl)-tetrahydro-2H-pyran-4-yl Benzoate | C(C1=CC=CC=C1)(=O)O[C@H]1C[C@@](O[C@@H](C1)CCCC=C)([C@H]1NC(SC1)=O)O | C20H25NO5S
